US05877181
4-Methoxy-2,3,5,6-tetrafluoropyridine
In a similar manner, the following compounds were made: 2,3,5,6-tetrafluoro-4-(2,2,2-trifluoroethoxy)pyridine; and 2,3,5,6-tetrafluoro-4-(1,3-difluoroprop-2-oxy)pyridine.

reactant | 2,3,5,6-tetrafluoro-4-(2,2,2-trifluoroethoxy)pyridine | FC1=NC(=C(C(=C1F)OCC(F)(F)F)F)F | C7H2F7NO
reactant | 2,3,5,6-tetrafluoro-4-(1,3-difluoroprop-2-oxy)pyridine | FC1=NC(=C(C(=C1F)OC(CF)CF)F)F | C8H5F6NO
product | 4-Methoxy-2,3,5,6-tetrafluoropyridine | COC1=C(C(=NC(=C1F)F)F)F | C6H3F4NO
